US06180622B2
b) (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-(imidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid
Tetrakis(triphenylphosphine)palladium(0) (16.4 mg) is added to a solution of 81.1 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate and 0.092 ml of N-methylaniline in 1.0 ml of dry dichloromethane, and the mixture is stirred in an argon atmosphere at room temperature for 45 min. Distilled water (3 ml) and 10 ml of ethyl acetate are added thereto remove insolubles. The aqueous layer is washed twice with 3 ml of ethyl acetate and concentrated under reduced pressure, and the concentrate is freeze dried to give a yellow flocculent material which is then purified by column chromatography on Cosmosil 40C18-PREP (water-methanol) to give 10.3 mg of the title compound as a colorless flocculent material.

reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-(imidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 81.1 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1CC1=CN2C(S1)=CN=C2)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O6S2
reactant | N-methylaniline | 0.092 ml | CNC1=CC=CC=C1 | C7H9N
reactant | water | 3 ml | O | H2O
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 16.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-(imidazo[5,1-b]thiazol-2-yl)methylpyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid | 10.3 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@@H]2CN[C@@H](C2)CC2=CN3C(S2)=CN=C3)C(=O)O)C1=O | C20H24N4O4S2
